* \\wsl.localhost\Ubuntu\home\minstrel\kinetika\project_mayhem\power_electronics\equivalent_circuit\resonant_H_bridge.asc
V1 N001 0 SINE(0 15 572000) AC 40
C1 N002 N001 50n
L1 N002 0 1.885µ
L2 0 N003 1512µ
C2 0 N004 1.6n
R1 N004 N003 0.11
R2 0 N004 187500
K1 L1 L2 0.51
.ac oct 10000 100000 2000000
* .tran 0.001
.backanno
.end
